Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematuria/clot retention
 
Major Surgical or Invasive Procedure:
Cystoscopy, clot evacuation, fulguration

 
History of Present Illness:
This is an ___ year old ___ speaking gentleman who was seen 
in
clinic ___ for void trial. He was admitted to ___
ED the next day with recurrent gross hematuria and urinary
retention requiring CBI. He has not had imaging. He returns 
today
for cystoscopy and possible void trial.

Urine has remained bloody. He denies lightheadedness, chest 
pain,
shortness of breath, fever, chills, nausea, vomiting, diarrhea.
has had constipation and is on a stool softener, which is
helping.
 
Past Medical History:
___ disease, BPH
 
Social History:
___
Family History:
n/a
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
****Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 07:55AM BLOOD WBC-7.3 RBC-3.96* Hgb-11.2* Hct-35.8* 
MCV-90 MCH-28.3 MCHC-31.3* RDW-13.5 RDWSD-44.8 Plt ___
___ 07:28PM BLOOD WBC-8.2 RBC-3.71* Hgb-10.4* Hct-33.4* 
MCV-90 MCH-28.0 MCHC-31.1* RDW-13.6 RDWSD-45.1 Plt ___
___ 07:28PM BLOOD Glucose-91 UreaN-17 Creat-1.1 Na-141 
K-4.0 Cl-106
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology service under Dr. ___ 
___ the clinic after cystoscopy revealed significant bleeding 
from the prostate and a large organized clot within the bladder. 
He was taken to the OR shortly after admission and underwent 
cystoscopy with clot evacuation, bladder biopsy, and fulguration 
of the the prostate. No complications were encountered. Please 
see full dictated operative report for details. 

He was monitored on CBI overnight. This was slowly weaned 
overnight and then clamped the following morning without 
complication. His labs were stable on POD1. A CTU was obtained 
before discharge for full hematuria workup. The foley catheter 
remained in place at the time of discharge and the patient will 
follow up next week for a void trial in the clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Carbidopa-Levodopa CR (50-200) 1 TAB PO QID 
4. Atropine Sulfate Ophth 1% 1 DROP BOTH EYES BID 
5. rOPINIRole 2 mg PO QID 
6. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Atropine Sulfate Ophth 1% 1 DROP BOTH EYES BID  
2.  Carbidopa-Levodopa CR (50-200) 1 TAB PO QID  
3.  Docusate Sodium 100 mg PO BID  
4.  Finasteride 5 mg PO DAILY  
5.  rOPINIRole 2 mg PO QID  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hematuria 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 

•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 

•Don't take blood-thinning medications until your doctor says 
it's OK. 

•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 

•Don't have sex. You'll likely be able to resume sexual activity 
in about four to six weeks. 

•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
•-Please also reference the nursing handout and instructions on 
routine care and hygiene

•-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

•-DO NOT allow anyone outside your urologist/team representative 
remove your Foley for any reason.

•-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

 
Followup Instructions:
___